US09085555B2
B. (2S,3R)-3-Methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
To a solution of (2S,3R)-3-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (150 mg, 0.578 mmol) in THF (4 mL) and water (2.0 mL) was added LiOH (69.3 mg, 2.89 mmol) and the reaction mixture was stirred at RT for 40 h. Another aliquot of LiOH was added (69.3 mg, 2.89 mmol). Stirring was continued at RT for 60 h and subsequently at 50° C. for 16 h to complete the reaction. Water was added and volatiles were removed under reduced pressure. The aqueous phase was adjusted to pH 2 to 3 by addition of 1N aqueous HCl, followed by extraction with EtOAC (3×). The combined organics were dried (Phase separator) and concentrated in vacuo to give the title compound as a white solid. MS (LC/MS): 262 [M+Na]+, 190 [MH−tBu]+, 146 [MH−Boc]+, tR (HPLC conditions b): 3.51 min.

reactant | (2S,3R)-3-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.578 mmol, 150 mg | COC(=O)[C@H]1N(CC[C@H]1OC)C(=O)OC(C)(C)C | C12H21NO5
reactant | LiOH | 2.89 mmol, 69.3 mg | [Li+].[OH-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 2.0 mL | O | H2O
product | (2S,3R)-3-Methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)OC)C(=O)O | C11H19NO5
